* Z:\home\ill\git\EasyAmp\EasyAmp2.asc
M1 N003 N005 0 0 IRFZ44N
R2 N002 N004 100R
B2 N001 0 V=12v
B1 N004 0 V=3v
R4 N005 0 1000R
R3 N001 N003 5R
Q1 N005 N002 N001 0 2N3906
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.tran .1
* Tie drain to gnd!!!!!!!!!!!!
* Load
* Active LOW
.backanno
.end
